US07888349B2
Trifluoroacetic acid (500 mL of a 10% solution in dichloromethane) was added to tert-butyl 11-{[tert-butyl(dimethyl)silyl]oxy}-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate (9.23 g, 19.7 mmol), and the reaction was stirred at ambient temperature for 75 minutes. The solvent was removed under reduced pressure, and the residue was shaken with triethylamine (300 mL) and dichloromethane. The solution was concentrated under reduced pressure, and the product was dried under high vacuum for two hours to provide 11-{[tert-butyl(dimethyl)silyl]oxy}-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline, which was used in the next step without removing the triethylamine trifluoroacetate salt.

reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 11-{[tert-butyl(dimethyl)silyl]oxy}-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | 19.7 mmol, 9.23 g | [Si](C)(C)(C(C)(C)C)OC1CN(CC=2N(C3=C(C=NC4=CC=CC=C34)N2)C1)C(=O)OC(C)(C)C | C25H36N4O3Si
solvent | dichloromethane | ClCCl | CH2Cl2
product | 11-{[tert-butyl(dimethyl)silyl]oxy}-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline | [Si](C)(C)(C(C)(C)C)OC1CNCC=2N(C3=C(C=NC4=CC=CC=C34)N2)C1 | C20H28N4OSi
